US04659707
(c) 4,9-Dihydro-10H-pyrido[3,2-b]thieno[3,2-e][1,4]-diazepin-10-one
3-(3-Nitropyridin-2-yl)aminothiophene-2-carboxylic acid methylester (14.6 g) is added to a suspension of dihydrate tin chloride (64 g) in conc. HCl (210 ml) and ethanol (235 ml). The reaction mixture is refluxed for 2 hours obtaining the gradual dissolution of the reagents and subsequent precipitation of a solid. After cooling at the room temperature, the solid is filtered and triturated with a saturated solution of NaHCO3, filtered, washed with H2O and dried to give 6.4 g (56%) of the title product, melting at 273°-279° C.

reactant | 3-(3-Nitropyridin-2-yl)aminothiophene-2-carboxylic acid methylester | 14.6 g | COC(=O)C=1SC=CC1NC1=NC=CC=C1[N+](=O)[O-] | C11H9N3O4S
reactant | dihydrate tin chloride | 64 g | [Sn](Cl)(Cl)(Cl)Cl.O.O
solvent | HCl | 210 ml | Cl | ClH
solvent | ethanol | 235 ml | C(C)O | C2H6O
product | 4,9-Dihydro-10H-pyrido[3,2-b]thieno[3,2-e][1,4]-diazepin-10-one | 6.4 g, 56% | S1C=CC=2NC3=C(NC(C21)=O)C=CC=N3 | C10H7N3OS
